US07384558B2
Concentrated sulfuric acid (2 mL) and 0.4456 g of 2,4-dinitrophenylhydrazine (2,4-DNP) were combined in a 25-mL Erlenmeyer flask. Water was added (2 to 3 mL) dropwise with swirling until the 2,4-DNP dissolved. This was followed by 10 mL of 95% ethanol. This solution was added, dropwise with swirling, to a solution of cyclohexanone, 0.5725 g, dissolved in 20 mL of 95% ethanol. A precipitate formed within 5 minutes. The mixture was refrigerated overnight. The precipitate was filtered to yield a yellow-orange crystalline solid. The product was re-crystallized from approximately 30 mL of absolute ethanol to afford 0.4 g of cyclohexanone 2,4-dinitrophenylhydrazone as orange flakes. The yield was 95%.

reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,4-dinitrophenylhydrazine | 0.4456 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN | C6H6N4O4
reactant | Water | O | H2O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | cyclohexanone 2,4-dinitrophenylhydrazone | 0.4 g, yield was 95% | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NN=C1CCCCC1 | C12H14N4O4
